US04459414
Tetrakis-(phenylthio)-phthalic acid N-n-butylimide
20 g (58.65 millimols) of tetrachlorophthalic acid N-n-butylimide, 26.49 g (240.5 millimols) of thiophenol, 49.04 g (355 millimols) of potassium carbonate and 200 ml of ethyl acetate are stirred at 25° C. for 18 hours and worked up as described in the preceding examples. After recrystallisation from toluene/cyclohexane, 35.99 g (97% of theory) of tetrakis-(phenylthio)-phthalic acid N-n-butylimide are obtained: melting point 159°-60° C.

reactant | tetrachlorophthalic acid N-n-butylimide | 58.65 millimols, 20 g | C(CCC)N=C(C=1C(C(=O)O)=C(C(=C(C1Cl)Cl)Cl)Cl)O | C12H11Cl4NO3
reactant | thiophenol | 240.5 millimols, 26.49 g | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 355 millimols, 49.04 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | Tetrakis-(phenylthio)-phthalic acid N-n-butylimide | C(CCC)N=C(C=1C(C(=O)O)=C(C(=C(C1SC1=CC=CC=C1)SC1=CC=CC=C1)SC1=CC=CC=C1)SC1=CC=CC=C1)O | C36H31NO3S4
